US07501414B2
2-Amino-3-chloro-5-morpholin-4-yl-benzonitrile
2,5-Diamino-3-chloro-benzonitrile (387 mg), bis-(2-bromoethyl)ether (0.35 mL) and N,N-diisopropyl-ethylamine (1.25 mL) were mixed in N,N-dimethylformamide (4 mL) and heated to 180° C. for 30 minutes in a sealed microwave process vial. Saturated aqueous bicarbonate (20 mL) was added and the crude mixture was extracted with ethyl acetate (20 mL). The organic phase was washed with water (20 mL) and brine (20 mL), dried over sodium sulfate and concentrated in vacuo to furnish 0.50 g (91%) of the title compound as a brown solid. LC-MS (m/z) 238 (MH+); tR=2.31, (UV, ELSD) 85%, 95%. 1H NMR (500 MHz, DMSO-d6): 2.97 (m, 4H), 3.69 (m, 4H), 5.59 (s, 2H), 7.04 (d, 1H), 7.29 (d, 1H).

reactant | 2,5-Diamino-3-chloro-benzonitrile | 387 mg | NC1=C(C#N)C=C(C=C1Cl)N | C7H6ClN3
reactant | bis-(2-bromoethyl)ether | 0.35 mL | BrCCOCCBr | C4H8Br2O
reactant | N,N-diisopropyl-ethylamine | 1.25 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | bicarbonate | 20 mL | C([O-])(O)=O
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | 2-Amino-3-chloro-5-morpholin-4-yl-benzonitrile | 0.50 g, 91% | NC1=C(C#N)C=C(C=C1Cl)N1CCOCC1 | C11H12ClN3O
